US08471005B2
Into an 8-dram vial, N-[2-(2-Hydroxy-5-methyl-pyrrolo[2,1-f][1,2,4]triazin-7-yl)-phenyl]-N-methyl-methanesulfonamide (87 mg, 0.26 mmol), N,N-Dimethylformamide (0.948 mL), N,N-Diisopropylethylamine (0.100 mL, 0.576 mmol), and N-Phenylbis(trifluoromethanesulphonimide) (0.112 g, 0.314 mmol) were added. The reaction was stirred at room temperature for 30 minutes. 2-[4-(4-Amino-3-methoxy-phenyl)-piperidin-1-yl]-acetamide (0.152 g, 0.576 mmol) was then added. The reaction mixture was heated at 120° C. for 4 hours. The solvent was removed under vacuum overnight. The reaction mixture was purified via HPLC reverse phase chromatography with 0.1% TFA in Water and 0.1% TFA in ACN. The collected fractions were lyophilized to give a yellow solid. The solid was partitioned with NaHCO3 and DCM. The organic was separated, washed with Brine and dried over Na2SO4. The solid was filtered and washed with DCM. The solvent was removed under vacuum to give 2-[4-(4-{7-[2-(Methanesulfonyl-methyl-amino)-phenyl]-5-methyl-pyrrolo[2,1-f][1,2,4]triazin-2-ylamino}-3-methoxy-phenyl)-piperidin-1-yl]-acetamide as a yellow solid. LCMS (E/I+) 578.16 (M+H). NMR 1H (DMSO-d6)-8.95 (s, 1H), 7.93-7.98 (m, 1H), 7.88 (d, 1H, J=8.18 Hz), 7.61-7.67 (m, 1H), 7.57 (s, 1H), 7.51-7.56 (m, 1H), 7.21 (s, 1H), 7.14 (s, 1H), 6.89 (s, 1H), 6.81 (s, 1H), 6.68 (d, 1H, J=8.51 Hz), 3.84 (s, 3H), 3.05 (s, 3H), 2.85-2.95 (m, 7H), 2.35-2.45 (m, 4H), 2.08-2.28 (m, 2H), 1.64-1.81 (m, 4H).

reactant | N-[2-(2-Hydroxy-5-methyl-pyrrolo[2,1-f][1,2,4]triazin-7-yl)-phenyl]-N-methyl-methanesulfonamide | 0.26 mmol, 87 mg | OC1=NN2C(C=N1)=C(C=C2C2=C(C=CC=C2)N(S(=O)(=O)C)C)C | C15H16N4O3S
reactant | N,N-Diisopropylethylamine | 0.576 mmol, 0.100 mL | C(C)(C)N(C(C)C)CC | C8H19N
reactant | N-Phenylbis(trifluoromethanesulphonimide) | 0.314 mmol, 0.112 g | C1=CC=C(C=C1)N(S(=O)(=O)C(F)(F)F)S(=O)(=O)C(F)(F)F | C8H5F6NO4S2
reactant | 2-[4-(4-Amino-3-methoxy-phenyl)-piperidin-1-yl]-acetamide | 0.576 mmol, 0.152 g | NC1=C(C=C(C=C1)C1CCN(CC1)CC(=O)N)OC | C14H21N3O2
solvent | N,N-Dimethylformamide | 0.948 mL | CN(C=O)C | C3H7NO
product | 2-[4-(4-{7-[2-(Methanesulfonyl-methyl-amino)-phenyl]-5-methyl-pyrrolo[2,1-f][1,2,4]triazin-2-ylamino}-3-methoxy-phenyl)-piperidin-1-yl]-acetamide | CS(=O)(=O)N(C1=C(C=CC=C1)C1=CC(=C2C=NC(=NN21)NC2=C(C=C(C=C2)C2CCN(CC2)CC(=O)N)OC)C)C | C29H35N7O4S
